US07244843B2
Step B. Preparation of (R)-1,3,4,10b-tetrahydro-9-(2-methylpropyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt
To a stirring solution of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-(2-methylpropyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (25 mg, 0.06 mmol) in dry ether (2 mL) was added hydrochloric acid (1 mL). The reaction was stirred for 1 h and then conc. in vacuo to a white solid. The solid was dissolved in water and lyophilized to 16 mg of a white solid. MS (ESI) 313 (M−Cl).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-(2-methylpropyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.06 mmol, 25 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)CC(C)C)C(F)(F)F)=O)CC1 | C21H27F3N2O3
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | ether | 2 mL | CCOCC | C4H10O
solvent | water | O | H2O
product | (R)-1,3,4,10b-tetrahydro-9-(2-methylpropyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt | Cl.CC(CC1=CC(=C2C(N3[C@H](C2=C1)CNCC3)=O)C(F)(F)F)C | InChI=1S/C16H19F3N2O.ClH/c1-9(2)5-10-6-11-13-8-20-3-4-21(13)15(22)14(11)12(7-10)16(17,18)19;/h6-7,9,13,20H,3-5,8H2,1-2H3;1H/t13-;/m0./s1
